US05653911
A mixture of (2-(1,3-dioxan-2-yl)ethyl)triphenylphosphonium bromide (17.4 g, 38.0 millimols) with THF (100 ml) was cooled down to -20° C., followed by adding t-BuOK (4.5 g, 39.9 millimols) to the mixture, stirring for 30 minutes, dropwise adding to the mixture, a THF (35 ml) solution of trans-4-(4-cyanophenyl)cyclohexanecarbaldehyde (7.7 g, 36.1 millimols) so as to keep the temperature at -20° C. or lower, stirring the mixture at the same temperature for 2 hours, and treating the reaction product in the same manner as in Example 3, to obtain raw 4-(trans-4-(3-(1,3-dioxan-2-yl)propenyl)cyclohexyl)benzonitrile (10.3 g).

reactant | (2-(1,3-dioxan-2-yl)ethyl)triphenylphosphonium bromide | 38.0 millimols, 17.4 g | [Br-].O1C(OCCC1)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | t-BuOK | 39.9 millimols, 4.5 g | CC(C)(C)[O-].[K+]
reactant | trans-4-(4-cyanophenyl)cyclohexanecarbaldehyde | 36.1 millimols, 7.7 g | C(#N)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)C=O | C14H15NO
solvent | THF | 35 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 4-(trans-4-(3-(1,3-dioxan-2-yl)propenyl)cyclohexyl)benzonitrile | 10.3 g | O1C(OCCC1)CC=C[C@@H]1CC[C@H](CC1)C1=CC=C(C#N)C=C1 | C20H25NO2
